US04369309
3,4-Dihydro-2-aminomethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole:
To 2.24 g of 3,4-dihydro-2-p-toluenesulfonyloxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole, were added 5 g of 25% ammonia water and 40 ml of dioxane. The mixture were heated in a sealed tube, at 120° C., for 75 hours. The reaction mixture was then condensed under reduced pressure. The residue was added with water and then extracted with chloroform, and dried over anhydrous magnesium sulfate. Chloroform was evaporated under reduced pressure. The residue was chromatographed on silica gel and eluted with chloroform to obtain 0.46 g (yield: 35.1%) of the intended product, m.p. 217°-222° C.; IR νmaxKBr cm-1 3300-2600, 1440; Anal. Calcd. for C11H13N3S: C, 60.25; H, 5.97; N, 19.16; S, 14.62; Found: C, 60.28; H, 5.99; N, 19.60; S, 14.13.

reactant | 3,4-dihydro-2-p-toluenesulfonyloxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | 2.24 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCN2C(=NC3=C2C=CC=C3)S1)C | C18H18N2O3S2
reactant | ammonia water | 5 g | O.N
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3,4-Dihydro-2-aminomethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | 0.46 g, yield: 35.1% | NCC1CCN2C(=NC3=C2C=CC=C3)S1 | C11H13N3S
